US04157444
A 1.08 g. portion of thieno[3,4-b][1,5]benzoxazepin-10(9H)-one and 1.15 g. of phosphorus pentachloride in 22 ml. of dry toluene are reacted as described in Example 1, giving 10-chloro-thieno[3,4-b][1,5]benzoxazepine. To this is added 10 ml. of toluene, 7.2 g. of N-ethylpiperazine and 25 ml. of triethylamine. The mixture is heated overnight at 100° C. and concentrated to dryness. The residue is treated as described in Example 3 providing the base compound as a foam which is converted to the fumarate, m.p. 215°-217° C.

reactant | thieno[3,4-b][1,5]benzoxazepin-10(9H)-one | C=1SC=C2OC3=C(NC(C21)=O)C=CC=C3 | C11H7NO2S
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 10-chloro-thieno[3,4-b][1,5]benzoxazepine | ClC=1C=2C(OC3=C(N1)C=CC=C3)=CSC2 | C11H6ClNOS
